US07332516B2
To an ice-cooled solution of 2-(5-methoxy-2-methyl-1H-indol-3-yl)-2-methyl-propionic acid (150 mg, 0.611 mmol) in THF (4 mL) was added KHMDS (0.5M solution in toluene; 3.1 mL, 1.55 mmol) and the solution stirred for 20 min at 0° C. 4-Chlorobenzoyl chloride (85.4 uL, 0.672 mmol) was added and the solution allowed to attain ambient temperature. After 30 minutes, satd. aq. NH4Cl soln. was added and the aqueous layer acidified with dil. HCl, extracted with EtOAc, the organic phase dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (0 to 30% acetone:hexanes) to afford 2-[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-yl]-2-methyl-propionic acid as an orange foam. 1H NMR (500 MHz, CDCl3) δ 7.69 (2H, d, J=8.4 Hz), 7.46 (2H, d, J=8.4 Hz), 7.08 (1H, d, J=2.4 Hz), 6.91 (1H, d, J=9.0 Hz), 6.66 (1H, dd, J=9.0, 2.4 Hz), 3.74 (3H, s), 2.39 (3H, s), 1.79 (6H, s). LCMS(EI) 386 (M+H)+.

reactant | 2-(5-methoxy-2-methyl-1H-indol-3-yl)-2-methyl-propionic acid | 0.611 mmol, 150 mg | COC=1C=C2C(=C(NC2=CC1)C)C(C(=O)O)(C)C | C14H17NO3
reactant | KHMDS | 1.55 mmol, 0.5M, 3.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-Chlorobenzoyl chloride | 0.672 mmol, 85.4 uL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | NH4Cl | [NH4+].[Cl-]
reactant | HCl | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-yl]-2-methyl-propionic acid | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)C(C(=O)O)(C)C)C)C=C1 | C21H20ClNO4
